US05254561
Step 1: 5-Hydroxy-5-methyl-6,7,8,9-tetrahydro-5H-benzocycloheptene
Following the procedure of Example 1, step 1, 26.02 g (0.162 mol) of 1-benzosuberone in 250 ml of anhydrous ether was reacted with 68.0 ml (0.204 mol) of 3.0M methyl magnesium bromide in ether to afford 26.65 g (93%) of the title product as a yellow oil. NMR δ(CDCl3) 1.59 (3H, s), 1.77-1.97 (6H, m), 2.83-2.96 (2H, m), 7.06-7.24 (3H, m), 7.67 (1H, d of d, J=7.6 and 1.5 Hz).

reactant | 1-benzosuberone | 0.162 mol, 26.02 g | C1CCC(=O)C2=CC=CC=C2C1 | C11H12O
reactant | methyl magnesium bromide | 0.204 mol, 3.0M, 68.0 ml | C[Mg]Br
solvent | ether | 250 ml | CCOCC | C4H10O
product | 5-Hydroxy-5-methyl-6,7,8,9-tetrahydro-5H-benzocycloheptene | 26.65 g, 93% | OC1(CCCCC2=C1C=CC=C2)C | C12H16O
